US06313126B1
(Cis)-3-{4-[4-(7-methoxyquinoxalin-5-yl)piperazin-1-yl]cyclohexyl}-1-methyl-1H-indole-5-carbonitrile
To a solution of 7-methoxy-5-piperazin-1-yl-quinoxaline (160 mg, 0.66 mmol), 4-(5-cyano-1-methyl-1H-indol-3-yl)-cyclohexanone (170 mg, 0.66 mmol), and sodium triacetoxyborohydride (210 mg, 0.98 mmol) in dichloroethane (30 mL) was added acetic acid (0.1 mL, 1.3 mmol) and stirred overnight at room temperature. The reaction was quenched with 1 M NaOH (100 mL) then extracted in CH2Cl2 (75 mL) and EtOAc (100 mL). The organic fractions were combined, dried over Na2SO4, concentrated, filtered and chromatographed (5% MeOH/EtOAc) affording 120 mg (38%) of the cis isomer as a bright yellow solid: mp 226-229° C.

reactant | 7-methoxy-5-piperazin-1-yl-quinoxaline | 0.66 mmol, 160 mg | COC1=CC(=C2N=CC=NC2=C1)N1CCNCC1 | C13H16N4O
reactant | 4-(5-cyano-1-methyl-1H-indol-3-yl)-cyclohexanone | 0.66 mmol, 170 mg | C(#N)C=1C=C2C(=CN(C2=CC1)C)C1CCC(CC1)=O | C16H16N2O
reactant | sodium triacetoxyborohydride | 0.98 mmol, 210 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 1.3 mmol, 0.1 mL | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 30 mL | ClC(C)Cl | C2H4Cl2
product | (Cis)-3-{4-[4-(7-methoxyquinoxalin-5-yl)piperazin-1-yl]cyclohexyl}-1-methyl-1H-indole-5-carbonitrile | COC1=CC(=C2N=CC=NC2=C1)N1CCN(CC1)[C@H]1CC[C@H](CC1)C1=CN(C2=CC=C(C=C12)C#N)C | C29H32N6O
